US06458784B1
a) Methyl (±)-4-methyl-3-oxo-7-[[[(3-pyridinyl)methyl]amino]carbonyl]-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate
EDC (229.4 mg, 1.2 mmol) was added to a solution of methyl (±)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (292.3 mg, 1.0 mmol), 3-(aminomethyl)pyridine (0.122 mL, 1.2 mmol), HOBT.H2O (162.2 mg, 1.2 mmol), and diisopropylethylamine (0.35 mL, 2.0 mmol) in anhydrous DMF (5 mL) at RT. After 23.5 h, the reaction was concentrated on the rotavap (high vacuum), and the residue was partitioned between 10% aqueous Na2CO3 and CHCl3. This caused a solid to precipitate. The layers were separated and the aqueous layer was extracted exhaustively with CHCl3 until all solids had dissolved. The combined CHCl3 layers were diluted with CHCl3, washed with 10% Na2CO3, dried (MgSO4), and concentrated. Crystallization of the residue from EtOAc gave impure title compound. The mother liquors were concentrated, combined with the recrystallized residue and chromatographed (silica gel, 10% MeOH/CHCl3). The title compound was obtained as a colorless solid (341 mg, 89%): TLC Rf 0.37 (10% MeOH/CHCl3); 1H NMR (250 MHz, CDCl3) δ8.58-8.68 (m, 1H), 8.47-8.57 (m, 1H), 7.72-7.81 (m, 1H), 7.54 (d, J=2.1 Hz, 1H), 7.45 (dd, J=8.5, 2.1 Hz, 1H), 7.31 (dd, J=7.7, 4.8 Hz, 1H), 6.44-6.63 (m, 2H), 5.45 (d, J=16.4 Hz, 1H), 5.04-5.15 (m, 1H), 4.64 (d, J=5.9 Hz, 2H), 4.55 (br d, J=4.5 Hz, 1H), 3.76 (d, J=16.4 Hz, 1H), 3.75 (s, 3H), 3.07 (s, 3H), 2.99 (dd, J3=16.0, 6.7 Hz, 1H), 2.67 (dd, J=16.0, 6.4 Hz, 1H); MS (ES) m/e 383.2 (M+H)+.

reactant | EDC | 1.2 mmol, 229.4 mg
reactant | methyl (±)-7-carboxy-4-methyl-3-oxo-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 1.0 mmol, 292.3 mg | C(=O)(O)C=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)C)C1 | C14H16N2O5
reactant | 3-(aminomethyl)pyridine | 1.2 mmol, 0.122 mL | NCC=1C=NC=CC1 | C6H8N2
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.2 mmol, 162.2 mg | O | H2O
reactant | diisopropylethylamine | 2.0 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl (±)-4-methyl-3-oxo-7-[[[(3-pyridinyl)methyl]amino]carbonyl]-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | CN1C(C(NC2=C(C1)C=C(C=C2)C(=O)NCC=2C=NC=CC2)CC(=O)OC)=O | C20H22N4O4
